US05948820
(4) Methyl 2-amino-4-(4-octylphenyl)butyrate hydrochloride
To a solution of 2-Amino-4-(4-octylphenyl)butanoic acid hydrochloride (20 g) in methanol (500 ml), thionyl chloride (7.2 ml) was added under ice-cooling and the mixture was left standing overnight. The reaction mixture was concentrated under reduced pressure to give the subject compound (16 g).

reactant | 2-Amino-4-(4-octylphenyl)butanoic acid hydrochloride | 20 g | Cl.NC(C(=O)O)CCC1=CC=C(C=C1)CCCCCCCC
reactant | methanol | 500 ml | CO | CH4O
solvent | thionyl chloride | 7.2 ml | S(=O)(Cl)Cl | Cl2OS
product | Methyl 2-amino-4-(4-octylphenyl)butyrate hydrochloride | 16 g | Cl.NC(C(=O)OC)CCC1=CC=C(C=C1)CCCCCCCC | InChI=1S/C19H31NO2.ClH/c1-3-4-5-6-7-8-9-16-10-12-17(13-11-16)14-15-18(20)19(21)22-2;/h10-13,18H,3-9,14-15,20H2,1-2H3;1H
